US04026936
Ethanol(1700 ml.) was saturated with ammonia at -20° to a total volume of 3l., then 49.7 g. (0.2 mol) of 2-(4-chloro-3-nitrobenzyl)pyridine was added. The entire mixture was first autoclaved at 100° C. for 24 hours, then 185° C. for 24 hours. The resulting solution was then evaporated in vacuo to a brown solid, which was thereafter dissolved in acetone, dried with magnesium sulfate. filtered and evaporated in vacuo to a light brown solid. The resulting solid was crystallized from water using Norite to give 2-(4-amino-3-nitrobenzyl)-pyridine as yellow-orange prisms, mp. 128- 132° C. (water).

reactant | ammonia | N | H3N
reactant | 2-(4-chloro-3-nitrobenzyl)pyridine | 0.2 mol | ClC1=C(C=C(CC2=NC=CC=C2)C=C1)[N+](=O)[O-] | C12H9ClN2O2
solvent | Ethanol | 1700 ml | C(C)O | C2H6O
product | 2-(4-amino-3-nitrobenzyl)-pyridine | NC1=C(C=C(CC2=NC=CC=C2)C=C1)[N+](=O)[O-] | C12H11N3O2
